US04835177
Step B: 1,6-Di-benzyloxycarbonyloxy-2,5-bis-[N-(cyclohexyl)-benzyloxycarbonylaminomethyl]-naphthalene
To a solution of 1,6-dihydroxy-2,5-bis-(cyclohexylaminomethyl)-naphthalene (3.8 g, 9.9 mmol) in dichloromethane (100 ml) were added, with cooling in an ice bath, triethylamine (6.9 ml, 50 mmol) and dropwise with stirring benzyl chloroformate (5.6 ml, 40 mmol). The reaction mixture was stirred at room temperature for 1 hour, diluted with ether, washed three times with water, dried (sodium sulfate) and evaporated to give the product as a thick syrup; yield 2.0 g.

reactant | 1,6-dihydroxy-2,5-bis-(cyclohexylaminomethyl)-naphthalene | 9.9 mmol, 3.8 g | OC1=C(C=CC2=C(C(=CC=C12)O)CNC1CCCCC1)CNC1CCCCC1 | C24H34N2O2
reactant | triethylamine | 50 mmol, 6.9 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 40 mmol, 5.6 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 1,6-Di-benzyloxycarbonyloxy-2,5-bis-[N-(cyclohexyl)-benzyloxycarbonylaminomethyl]-naphthalene | C(C1=CC=CC=C1)OC(=O)OC1=C(C=CC2=C(C(=CC=C12)OC(=O)OCC1=CC=CC=C1)CN(C1CCCCC1)C(=O)OCC1=CC=CC=C1)CN(C1CCCCC1)C(=O)OCC1=CC=CC=C1 | C56H58N2O10
